Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
testicular pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
HPI: ___ h/o BPH and HLD presents with testicular pain and
swelling.  He has been having issues with urinary retention for
some time and had an indwelling foley that was removed ___
with instructions to straight cath as needed.  Patient had a
difficult time with straight cath with some bleeding and foley
was replaced ___ (with difficult placement). Patient woke up
with right testicular pain and swelling ___ and was 
evaluated
at ___.  He had an ultrasound and urine
studies and was told that he had a scrotal/testicular infection
likely epididymitis from E coli and discharged on levofloxacin,
which he has been taking.  Since that time the scrotal pain has
remained constant with radiation to the right groin and the
swelling has been intermittent.  He notes that the pain/swelling
seems better and worse at the same time.  He denies
fever/chills/sweats, abdominal pain, penile discharge, or
dysuria.  Other than intermittent bleeding with catheterizations
he denies hematuria. This is the first episode of similar
presentation.  He denies sexual intercourse with multiple
partners and anal intercourse (asked without family in the 
room).
He was scheduled to have a TURP today but was sent home due to
infection. He developed worsening pain and swelling later today
prompting presentation to the ED.  Foley was not exchanged today
and does not want to do it tonight.  

In the ED tmax 98.6F, HR 70-84, BP 142/77-157/70.  Scrotal
ultrasound consistent with right epididymo-orchitis and he was
given ceftriaxone, doxycycline, and ketorolac. 

As per ___ (lab ___, urine culture from
___ with no growth (final).

ROS: as above otherwise 10point ROS negative 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
-BPH, HLD
-left carotid artery stenosis (>90%) s/p carotid endarterectomy 
-appendectomy, left knee surgery, left inguinal hernia repair
 
Social History:
___
Family History:
FAMILY HISTORY: 
-Father: deceased in his ___ from heart attack
 
Physical Exam:
Admission Exam 
PHYSICAL EXAM:
-VS: reviewed 
-General Appearance: pleasant, comfortable, no acute distress
-Eyes: PERLL, EOMI, no conjuctival injection, anicteric
-HENT: moist mucus membranes, atraumatic, normocephalic
-Respiratory: clear b/l, no wheeze 
-Cardiovascular: RRR, no murmur
-Gastrointestinal: nontender, nondistended, bowel sounds present
-GU: foley with leg bag draining clear urine. Scrotum
erythematous with edema and without ulceration. Right testicle
firm and enlarged without significant edema. 
-Musculoskeletal: no pedal edema, no joint swelling 
-Skin: no rash, ulceration, or jaundice noted
-Neuro: no focal neurological deficits, CN ___ grossly intact
-Psychiatric: appropriate mood and affect 

Discharge Exam:
___ 1532 Temp: 98.2 PO BP: 159/89 HR: 71 RR: 18 O2 sat: 97% 
O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present. 
GU: Right scrotum is swelling and erythematous; non tender to 
palpation; Foley in place
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission Labs 

___ 02:35PM BLOOD WBC-6.9 RBC-4.67 Hgb-13.8 Hct-41.9 MCV-90 
MCH-29.6 MCHC-32.9 RDW-13.2 RDWSD-43.3 Plt ___
___ 02:35PM BLOOD Neuts-68.3 Lymphs-15.4* Monos-9.0 Eos-5.8 
Baso-1.2* Im ___ AbsNeut-4.70 AbsLymp-1.06* AbsMono-0.62 
AbsEos-0.40 AbsBaso-0.08
___ 02:35PM BLOOD Glucose-111* UreaN-24* Creat-1.7* Na-140 
K-4.1 Cl-102 HCO3-21* AnGap-17
___ 02:47PM BLOOD Lactate-1.7

Ultrasound 
IMPRESSION: 
Right epididymo-orchitis.  No evidence of torsion.

Discharge Labs:
___ 07:15AM BLOOD WBC-6.3 RBC-4.30* Hgb-12.8* Hct-38.9* 
MCV-91 MCH-29.8 MCHC-32.9 RDW-13.2 RDWSD-43.7 Plt ___
___ 07:15AM BLOOD Glucose-88 UreaN-22* Creat-1.5* Na-143 
K-4.0 Cl-107 HCO3-25 AnGap-11

MICRO:
URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
Acute problems:
___ h/o BPH presents with testicular pain from right 
epididymo-orchitis.

#Right epididymo-orchitis h/o BPH 
Presented after his symptoms did not improve with three days of 
treatment with levofloxacin. On admission he was started on 
ceftriaxone and doxycycline. He has a scrotal ultrasound which 
showed epididymo-orchitis but no abscess. UA had no growth. 
chlamydia and gonorrhea were negative. He was continued on 
ceftriaxone for 24 hours and then transitioned to levofloxacin. 
This was discussed with the ___ consult team. They explained 
that scrotal swelling from epididymitis can persist for weeks. 
They recommended a prolonged course of levofloxacin (14 days). 
He was counseled that if he has worsened pain, fevers/chills, or 
swelling, he should seek medical attention. He will follow up in 
___ clinic. 

___ vs CKD
Unclear baseline but improved with IVF. 

>30 minutes were spent on complex discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. amLODIPine 10 mg PO DAILY 
3. Levofloxacin 750 mg PO Q24H 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0 
4.  Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg 1 tab by mouth twice a day Disp #*60 
Tablet Refills:*0 
5.  amLODIPine 10 mg PO DAILY  
6.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*8 
Tablet Refills:*0 
7.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epididymitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted after you had increase scrotal pain and 
swelling. You underwent an ultrasound which showed ongoing 
epididymitis. You were started on IV antibiotics and given pain 
medication.

After you were feeling better you were placed back on oral 
antibiotics. The scrotal swelling associated with epididymitis 
can go on for weeks and this is expected. Your urine cultures 
came back negative.

It was a pleasure caring for you, 
Your ___ Team 
 
Followup Instructions:
___